US07897612B2
9a) Ethyl 2-[(3,3-dimethylbutyl)amino]-6-methyl-3-pyridinecarboxylate
A solution of 2-chloro-6-methylnicotinic acid (0.500 g, 2.91 mmol) in ethanol (5.0 mL) was treated with potassium carbonate (0.810 g, 5.80 mmol) followed by (3,3-dimethylbutyl)amine (0.590 mL, 4.35 mmol). The mixture was stirred at reflux for 3 h and then heated to 160° C. for 1 h in a Biotage Initiator microwave synthesizer. A solid was decanted and the mother liquor was further diluted with ethanol (5.0 mL) and treated with concentrated sulfuric acid (3.0 mL). The solution was then refluxed overnight, cooled to ambient temperature, and neutralized to pH ˜7 using 6N aqueous sodium hydroxide. The mixture was extracted with ethyl acetate (3×20 mL). The combined organic portions were dried over magnesium sulfate, filtered, and concentrated in vacuo. The title compound was obtained as a clear oil (0.578 g, 75%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.99 (d, J=7.8 Hz, 1H), 7.84 (br. s., 1H), 6.35 (d, J=7.8 Hz, 1H), 4.30 (q, J=7.2 Hz, 2H), 3.44-3.58 (m, 2H), 2.92-3.05 (m, 2H), 2.42 (s, 3H), 1.37 (t, J=7.2 Hz, 3H), 0.99 (s, 9H). MS(ES+) m/e 265 [M+H]+.

reactant | 2-chloro-6-methylnicotinic acid | 2.91 mmol, 0.500 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | potassium carbonate | 5.80 mmol, 0.810 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3,3-dimethylbutyl)amine | 4.35 mmol, 0.590 mL | CC(CCN)(C)C | C6H15N
reactant | ethanol | 5.0 mL | C(C)O | C2H6O
product | Ethyl 2-[(3,3-dimethylbutyl)amino]-6-methyl-3-pyridinecarboxylate | CC(CCNC1=NC(=CC=C1C(=O)OCC)C)(C)C | C15H24N2O2
